US05604218
To a suspension of 3-nitro-2-(pyrazol-1-yl)pyridine (670 mg, 3.72 mmol) in ethanol (10 mL) was added a 1M solution of SnCl2.H2O in 6N aqueous HCl (14.5 mL, 14.5 mmol). The mixture was heated at reflux for 10 min, and the solvent was removed with a rotary evaporator. 10% aqueous sodium hydroxide solution was added until most of the material dissolved, and the mixture was extracted with dichloromethane. The organic extracts were dried over sodium sulfate and concentrated to afford 376 mg (68%) of 3-amino-2-(pyrazol-1-yl)pyridine as a brown oil. 1H NMR (CDCl3) δ5.62 (br s, 2), 6.46 (m, 1), 7.05 (dd, 1, J=5, 8), 7.24 (dd, 1, J=2, 8), 7.74 (m, 1), 7.85 (dd, 1, J=2, 5), 8.54 (d, 1, J=3).

reactant | 3-nitro-2-(pyrazol-1-yl)pyridine | 3.72 mmol, 670 mg | [N+](=O)([O-])C=1C(=NC=CC1)N1N=CC=C1 | C8H6N4O2
reactant | SnCl2.H2O | Cl[Sn]Cl.O
reactant | HCl | 14.5 mmol, 6N, 14.5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-amino-2-(pyrazol-1-yl)pyridine | 376 mg, 68% | NC=1C(=NC=CC1)N1N=CC=C1 | C8H8N4
